US07585875B2
A mixture of 200 mg (0.63 mmol) of 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)ethanone, 100 mg of thiourea and 160 mg of sodium hydride were stirred in 2 ml of dioxane containing 120 μl of H2O at 60-70° C. for 30 minutes. 100 mg of 4-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)thiazol-2(5H)-imine was obtained after workup. Compound 1087.

reactant | 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)ethanone | 0.63 mmol, 200 mg | ClCC(=O)C=1C(=NN2C1C=CC=C2)C(C)C | C12H13ClN2O
reactant | thiourea | 100 mg | NC(=S)N | CH4N2S
reactant | sodium hydride | 160 mg | [H-].[Na+]
reactant | H2O | O | H2O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)thiazol-2(5H)-imine | 100 mg | C(C)(C)C1=NN2C(C=CC=C2)=C1C1=NC(SC1)=N | C13H14N4S
